US07271197B2
viii) Methyl 3-{[2-(4-{2-[(5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]ethyl}phenoxy)ethoxy]methyl}benzoate
(5R)-5(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-3-[2-(4-hydroxyphenyl)ethyl]-1,3-oxazolidin-2-one{Example 28 v)} (300 mg), methyl 3-[(2-hydroxyethoxy)methyl]benzoate (340 mg) and triphenylphosphine (642 mg) were dissolved in DCM (10 ml) and stirred for 15 min. To this was added 1,1′-(azodicarbonyl)dipiperidine (612 mg) and the solution was stirred for 16 h. The solution was then diluted in DCM, washed with water, dried (MgSO4) and concentrated in vacuo. The residue was purified by chromatography (Biotage, 90 g) eluting with CH2Cl2-MeOH (250:1) to give the title compound (450 mg). LCMS RT=3.62 min.

reactant | (5R)-5(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-3-[2-(4-hydroxyphenyl)ethyl]-1,3-oxazolidin-2-one | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCC2=CC=C(C=C2)O)C | C21H23NO5
reactant | methyl 3-[(2-hydroxyethoxy)methyl]benzoate | 340 mg | OCCOCC=1C=C(C(=O)OC)C=CC1 | C11H14O4
reactant | triphenylphosphine | 642 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 612 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | Methyl 3-{[2-(4-{2-[(5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]ethyl}phenoxy)ethoxy]methyl}benzoate | 450 mg | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCC2=CC=C(OCCOCC=1C=C(C(=O)OC)C=CC1)C=C2)C | C32H35NO8
